US04057573
Dry ammonia is passed into a solution of 27 g of crude 5-benzoyl-6-acetoxy-indane-1-carboxylic acid chloride in 200 ml of anhydrous benzene at a temperature of 15°-20° C, with exclusion of moisture, until saturation is reached. The reaction solution is then evaporated to dryness in vacuo and the evaporation residue is partitioned between 200 ml of water and 3 times 200 ml of methylene chloride. The organic phases are washed until neutral, dried over sodium sulphate and evaporated in vacuo. Fractional crystallisation of the evaporation residue from hot dimethylformamide-water gives 5-benzoyl-6-hydroxy-indane-1-carboxylic acid amide of melting point 205°-207° C. The starting material can be obtained as follows. A solution of 20 g of 5-benzoyl-6-hydroxy-indane-1-carboxylic acid in 200 ml of acetic anhydride is heated to the reflux temperature for 4 hours. It is then evaporated to dryness in vacuo, 50 ml of toluene are added to the evaporation residue and the mixture is evaporated to dryness. This procedure is repeated twice more. The crude 5-benzoyl-6-acetoxy-indane-1-carboxylic acid thus obtained is used directly for further conversion.

reactant | ammonia | N | H3N
reactant | 5-benzoyl-6-acetoxy-indane-1-carboxylic acid chloride | 27 g | C(C1=CC=CC=C1)(=O)C=1C=C2CCC(C2=CC1OC(C)=O)C(=O)Cl | C19H15ClO4
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 5-benzoyl-6-hydroxy-indane-1-carboxylic acid amide | C(C1=CC=CC=C1)(=O)C=1C=C2CCC(C2=CC1O)C(=O)N | C17H15NO3
